US06521666B1
N-(2,6-Dichlorobenzoyl)-4-(4-allylamino-2,6-dimethoxyphenyl)-L-phenylalanine methyl ester (0.93 g) was dissolved in MeCN/water (40 mL of 84:16) under N2. Wilkinson's catalyst (79 mg ) was added and the mixture was brought to boiling. After 2 h, more catalyst (170 mg ) was added and the reaction continued for another 6 h. The solvent was evaporated and the residual water coevaporated with MeCN. The residue was purified by preparative TLC (silica gel; eluent: hexane/AcOEt 2:1 to 1:2) to give N-(2,6-dichlorobenzoyl)-4-(4-amino-2,6-dimethoxyphenyl)-L-phenylalanine methyl ester(708 mg).

reactant | N-(2,6-Dichlorobenzoyl)-4-(4-allylamino-2,6-dimethoxyphenyl)-L-phenylalanine methyl ester | 0.93 g | COC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)C1=C(C=C(C=C1OC)NCC=C)OC)=O | C28H28Cl2N2O5
solvent | MeCN water | 40 mL | CC#N.O
catalyst | Wilkinson's catalyst | 79 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Cl-].[Rh]
product | N-(2,6-dichlorobenzoyl)-4-(4-amino-2,6-dimethoxyphenyl)-L-phenylalanine methyl ester | 708 mg | COC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)C1=C(C=C(C=C1OC)N)OC)=O | C25H24Cl2N2O5
